US04505835
2-amino-nonane;
2-amino dodecane, 2-amino-tridecane;

reactant | 2-amino dodecane | NC(C)CCCCCCCCCC | C12H27N
reactant | 2-amino-tridecane | NC(C)CCCCCCCCCCC | C13H29N
product | 2-amino-nonane | NC(C)CCCCCCC | C9H21N
